US07053212B2
N-(4-Hydroxy-benzyl)-N-[4-(3-pyrrolidin-1-yl-propyl)-phenyl]-benzenesulfonamide
To a solution of N-(4-hydroxy-benzyl)-N-[4-(3-oxo-propyl)-phenyl]-benzenesulfonamide (0.093 g, 0.24 mmol) in 1.5 mL methylene chloride was added pyrrolidine (0.034 g, 0.47 mmol) and NaB(OAc)3H (0.092 g, 0.44 mmol). The reaction mixture was stirred at room temperature overnight. Saturated aqueous sodium bicarbonate was added and the mixture was extracted with methylene chloride. The organic layer was dried (magnesium sulfate) and concentrated. Medium pressure chromatography (10% methanol/methylene chloride) afforded 0.053 g (50%) of the title compound. MS 451.1 (M+1)+

reactant | N-(4-hydroxy-benzyl)-N-[4-(3-oxo-propyl)-phenyl]-benzenesulfonamide | 0.24 mmol, 0.093 g | OC1=CC=C(CN(S(=O)(=O)C2=CC=CC=C2)C2=CC=C(C=C2)CCC=O)C=C1 | C22H21NO4S
reactant | pyrrolidine | 0.47 mmol, 0.034 g | N1CCCC1 | C4H9N
reactant | NaB(OAc)3H | 0.44 mmol, 0.092 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 1.5 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Hydroxy-benzyl)-N-[4-(3-pyrrolidin-1-yl-propyl)-phenyl]-benzenesulfonamide | 0.053 g, 50% | OC1=CC=C(CN(S(=O)(=O)C2=CC=CC=C2)C2=CC=C(C=C2)CCCN2CCCC2)C=C1 | C26H30N2O3S
